US05153227
4-Iodobenzenesulphonyl chloride (30.2 g, 100 mmol) was added in portions to a vigorously stirred solution of sodium bicarbonate (16.8 g, 200 mmol) and anhydrous sodium sulphite (24 g, 190 mmol) in water (100 ml) at 70°-80° C. The temperature was kept at 70°-80° C. by intermittent heating. When the addition was complete, the mixture was heated and stirred at 70°-80° C. for a further hour. The mixture was then filtered and the filtrate allowed to cool to approximately 40° C. The resulting solid which crystallised from the solution was separated by filtration, washed with ice-cold water and dried in vacuo for 48 hours over sodium hydroxide and calcium chloride, to give sodium 4-iodobenzenesulphinate m.p. >350° C., which was used without further purification or characterisation.

reactant | 4-Iodobenzenesulphonyl chloride | 100 mmol, 30.2 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | sodium bicarbonate | 200 mmol, 16.8 g | C([O-])(O)=O.[Na+]
reactant | sodium sulphite | 190 mmol, 24 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | sodium 4-iodobenzenesulphinate | IC1=CC=C(C=C1)S(=O)[O-].[Na+] | InChI=1S/C6H5IO2S.Na/c7-5-1-3-6(4-2-5)10(8)9;/h1-4H,(H,8,9);/q;+1/p-1
